US06696464B2
E) Isobutyric Acid N′-[5-(4-Phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide
To a solution of 5-(4-Phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine (2.5 g, 9.9 mmol), and N,N-diisopropylethylamine (8.6 mL, 50 mmol) in dichloromethane (8 mL) at 0° C. was added dropwise isobutyryl chloride (1.04 mL, 9.9 mmol); the mixture was stirred at 0° C. for 2 hours. The reaction was quenched with water and extracted with dichloromethane (3×). The combined organic layers were washed with water, brine, dried over sodium sulfate, filtered, and the filtrate was concentrated in vacuo to a dark sticky solid. The residue was purified by flash chromatography (eluting with ethyl acetate/hexanes 3:1) to give the title compound as a yellow solid.

reactant | 5-(4-Phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine | 9.9 mmol, 2.5 g | C1(=CC=CC=C1)C=1N=COC1C=1C=CC(=NC1)NN | C14H12N4O
reactant | N,N-diisopropylethylamine | 50 mmol, 8.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isobutyryl chloride | 9.9 mmol, 1.04 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | Isobutyric Acid N′-[5-(4-Phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide | C1(=CC=CC=C1)C=1N=COC1C=1C=CC(=NC1)NNC(C(C)C)=O | C18H18N4O2
